Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
gabapentin / latex
 
Attending: ___
 
Chief Complaint:
post tPA management
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
NEUROLOGY STROKE ADMISSION/CONSULT NOTE

Neurology at bedside after Code Stroke activation within: __ 
mins
Time/Date the patient was last known well: __

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale Score: __

t-PA administered: 
[x] Yes - Time given: ___ ___
[] No - Reason t-PA was not given or considered: __

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: no LVO

**Initial telestroke NIHSS (by stroke fellow, Dr. ___
NIHSS performed within 6 hours of presentation at: ___
NIHSS Total: 7
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 4
6a. Motor leg, left: 0
6b. Motor leg, right: 1
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 1
11. Extinction and Neglect: 0

**Upon arrival to ___ ED**
NIHSS performed at 0320 ___
NIHSS Total: 7
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 4
6a. Motor leg, left: 0
6b. Motor leg, right: 1
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 1
11. Extinction and Neglect: 0
 

REASON FOR CONSULTATION: stroke post-tPA 
 
HPI: 
___ is an ___ woman with a history of remote
TIA (on ASA 81 mg), pAF (not anticoagulated), colon
adenocarcinoma (s/p right leocolectomy ___ in remission),
hypothyroidism, hyperlipidemia, who presented with acute-onset
dysarthria and right arm weakness. Transfer from ___ 
for
post-tPA management.
 
Patient noted sudden-onset right arm electric sensations and
weakness around 10pm on ___ (LKW). She was sitting in a chair
and had a somewhat difficult time standing up due to right leg
weakness. She called her son, who noted that her speech was
slurred. He called EMS for her. EMS arrived ___. She was taken
by EMS to ___. According to ED physicians, she had an
NIHSS of 9 (dysarthria, right facial palsy, right arm plegia,
moderate right leg weakness). She was evaluated via telestroke
and found to have an NIHSS of 7 (for R facial palsy, R arm
weakness, dysarthria). She perhaps had some improvement in the
right leg weakness while in the ED. CT/CTA showed chronic
microvascular changes, but no ICH or large territory infarction.
TPA was administered at 0045 ___. The patient was transported
to ___ for post-tPA management.

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties comprehending speech, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
- Hypothyroidism
- Cholecystectomy 
- TIA in ___ 
- Paroxysmal A-fib: During a preop stress test in ___, the
patient was noted to go into rapid atrial fibrillation and
admitted to the hospital for rate control.
- restless legs 
- asthma 
 
Social History:
SOCIAL HISTORY:
___
Family History:
FAMILY HISTORY:   
father ___ Age ___ lung Cancer w/ brain mets (smoker) 
mother ___ Age ___ tachycardia, Alzheimers disease 
Maternal grandmother ___ colon cancer
 
Physical Exam:
PHYSICAL EXAMINATION: 
Vitals:
97.6 
90 
161/93 
18 
96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema. Intermittent spasms b/l. 
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Significant dysarthria. Attentive. Language
is fluent with intact repetition and comprehension. Normal
prosody. Able to name both high and low frequency objects.  Able
to read without difficulty. Able to follow both midline and
appendicular commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2.5 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: Right lower facial droop; symmetric with activation 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in left trapezius, ___ right. 
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift on
left. Intermittent spasms of legs b/l. 
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    0    1    1    0    0    0   4+   5    5   5    5    5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      3     0 
Right side more brisk throughout. 

Plantar response was flexor on left and extensor on right.

-Coordination: No intention tremor or dysmetria on FNF or HKS
bilaterally.

-Gait:  deferred

Discharge Exam
====================
PHYSICAL EXAMINATION: 
Vitals:
Reviewed in Metavision, at bedside
HR 130, BP 160/85, RR 18, O2 98% RA 
General: Awake, cooperative, NAD.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Minimal dysarthria. Attentive. Language is
fluent with intact repetition and comprehension. Normal prosody.
Able to name both high and low frequency objects.  Able to read
without difficulty. Able to follow both midline and appendicular
commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2.5 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: Right lower NLFF which is very subtle; symmetric with
activation 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in left trapezius, ___ right. 
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift on
left. Intermittent spasms of legs b/l. 
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    2*   5-   4    4    4    4   4+   5    5-  5    5    
*Question pain limitation

-Sensory: No deficits to light touch
-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      3     0 

Right side more brisk throughout. 

Plantar response was flexor on left and extensor on right.

-Coordination: No intention tremor or dysmetria on FNF or HKS
bilaterally.

-Gait:  deferred

 
Pertinent Results:
Admission Labs
-----------------

___ 03:07AM BLOOD WBC-8.8 RBC-4.01 Hgb-12.8 Hct-39.0 MCV-97 
MCH-31.9 MCHC-32.8 RDW-14.1 RDWSD-50.5* Plt ___
___ 03:07AM BLOOD Neuts-79.5* Lymphs-12.1* Monos-7.2 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-6.96* AbsLymp-1.06* 
AbsMono-0.63 AbsEos-0.05 AbsBaso-0.03
___ 03:07AM BLOOD Plt ___
___ 03:07AM BLOOD Glucose-112* UreaN-22* Creat-0.8 Na-139 
K-4.8 Cl-104 HCO3-19* AnGap-16
___ 03:07AM BLOOD ALT-33 AST-41* AlkPhos-92 TotBili-0.6
___ 03:07AM BLOOD cTropnT-0.04*
___ 03:07AM BLOOD Albumin-4.0 Calcium-9.1 Phos-3.7 Mg-1.9

Pertinent Labs
==============

___ 03:07AM BLOOD TSH-2.7
___ 05:35AM BLOOD Triglyc-52 HDL-85 CHOL/HD-2.2 LDLcalc-94
___ 05:35AM BLOOD Triglyc-52 HDL-85 CHOL/HD-2.2 LDLcalc-94

Imaging
============
TTE
IMPRESSION: No definite structural cardiac source of embolism 
identified. Biatrial enlargement.
Preserved biventricular systolic function. Mild mitral 
regurgitation. Mild pulmonary hypertension.

Radiology Report MR HEAD W/O CONTRAST Study Date of ___ 
11:59 ___ 
1. Multiple foci of slow diffusion in the left basal ganglia and 
left frontal 
and parietal lobes, compatible with acute infarcts and 
suggestive of an 
embolic etiology.  No evidence of hemorrhage. 
2. Extensive chronic microangiopathic and involutional changes. 

 
Brief Hospital Course:
___ is an ___ woman with a history of remote 
TIA (on ASA 81 mg), pAF (not anticoagulated), colon 
adenocarcinoma (s/p right leocolectomy ___ in remission), 
hypothyroidism, and hyperlipidemia, who presented with 
acute-onset dysarthria and right arm weakness, NIHSS 7. She was 
given tPA 3hrs and 15 minutes after symptom onset and 
transferred to ___ for post-tPA care from ___. MRI was 
revealing of small punctate embolic appearing infarcts in the 
left centrum semi-ovale, anterior internal capsule, and 
subcortical parietal post central gyrus. She was found to be in 
a-flutter during the hospitalization and started on metoprolol 
and apixaban. Her NIHSS 24 hours after tPA was a 4 for RUE 
weakness and RNLFF. Her dysarthria and RUE weakness were 
significantly improved from the initial evaluation. She was 
evaluated by ___ and discharged to acute rehab. A1c 5.7, LDL 94. 

TI
[] New diagnosis of a-flutter, started on apixaban and 
metoprolol. Apixaban dose reduced to 2.5 daily for weight <60kg 
and age >___ (weight 57.2 kg )
[] Patient will need follow up with PCP within one week of 
discharge
[] simvastatin discontinued in favor of atorva 40mg as LDL >70

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 94) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Pramipexole 0.25 mg PO QAM 
4. Pramipexole 0.5 mg PO QPM 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID  
2.  Atorvastatin 40 mg PO QPM  
3.  Lidocaine 5% Patch 1 PTCH TD ONCE Duration: 1 Dose  
4.  Metoprolol Tartrate 12.5 mg PO BID  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Vitamin D ___ UNIT PO DAILY  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  Levothyroxine Sodium 112 mcg PO DAILY  
9.  Pramipexole 0.25 mg PO QAM  
10.  Pramipexole 0.5 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary 
-Acute ischemic Stroke
-Atrial flutter

Secondary 
HTN
HLD
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of slurred speech and 
right sided weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Atrial fibrillation or Atrial Flutter
History of a TIA
High blood pressure

We are changing your medications as follows:
We started you on a blood pressure medication
We started you on a blood thinner (apixaban)

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___